US05200412
To a stirred solution of N-benzyloxycarbonyl-L-phenylalanine p-nitrophenyl ester (5.0 g, 11.9 mmol) in DCM at 0° C. was slowly added a/solution of 8M methylamine (1.5 ml, 11.9 mmol) in ethanol. The reaction immediately turned bright yellow and was stirred for 0.5 h. The reaction was diluted with DCM (50 ml), washed with 10% sodium carbonate (1×50 ml), brine (2×50 ml) and dried over anhydrous magnesium sulphate. Filtration and evaporation gave a white residue which was crystallised from ethyl acetate/hexane to give N-benzyloxycarbonyl-L-phenylalanine methylamide (3.0 g, 81%) as a white crystalline solid.

reactant | N-benzyloxycarbonyl-L-phenylalanine p-nitrophenyl ester | 11.9 mmol, 5.0 g | [N+](=O)([O-])C1=CC=C(C=C1)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O | C23H20N2O6
reactant | methylamine | 11.9 mmol, 8M, 1.5 ml | CN | CH5N
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | N-benzyloxycarbonyl-L-phenylalanine methylamide | 3.0 g, 81% | CNC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O | C18H20N2O3
